US06664260B2
4-Nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinolin-5-amine (34.3 g, 87.2 mmol) was added to a 3 liter stainless steel pressure flask containing ethanol (1.25 L, absolute). Platinum on carbon (3.00 g, 5% w/w) was added and the flask was placed on a Parr hydrogenation apparatus. The reaction was shaken under 45 psi (3.15 Kg/cm2) of hydrogen for 24 hours. The catalyst was removed by filtration through Celite™ and the Celite pad was washed with several portions of ethanol. The filtrate was concentrated in vacuo to provide 30.8 g of N5-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinoline-4,5-diamine as an orange/red oil. MS (CI) m/e 364 (MH+), 336.

reactant | 4-Nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinolin-5-amine | 87.2 mmol, 34.3 g | [N+](=O)([O-])C=1C=2N(C3=CC=CC=C3C1NCCOCCCC=1C=NC=CC1)N=NN2 | C19H19N7O3
reactant | hydrogen | [H][H] | H2
catalyst | Platinum on carbon | 3.00 g | [Pt] | Pt
solvent | ethanol | 1.25 L | C(C)O | C2H6O
product | N5-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinoline-4,5-diamine | 30.8 g | N1=CC(=CC=C1)CCCOCCNC1=C(C=2N(C3=CC=CC=C13)N=NN2)N | C19H21N7O
